US06410563B1
To a −78° C. solution of thiazole (1.0 g, 12.0 mmol) in THF (100 ml) was added n-butyllithium (2.3M in hexanes, 5.3 ml, 12.3 mmol) dropwise and the resulting solution was stirred at −78° C. for 10 min. 4-(Methylthio)benzaldehyde (7.1 ml, 53.4 mmol) was then added at −78° C. The resulting mixture was stirred at r.t. 10 min. and cooled at −78° C. Then n-butyllithium (2.3M in hexanes, 5.3 ml, 12.3 mmol) was added dropwise and the resulting solution was stirred at 25° C. for 10 min and quenched with acetone (3.0 ml). The mixture was then diluted with EtOAc and HCl 10%, extracted and washed (NaHCO3 (sat.), brine). The organic phase was dried over MgSO4 and concentrated. The residue was then treated with MnO2 (20.4 g, 235 mmol) in CH2Cl2 (250 ml) and the reaction was stirred at r.t. overnight. The resulting mixture was then filtered through a plug of silica (EtOAc). Flash chromatography (90% CH2Cl2/10% EtOAc) yielded [5-(1-Hydroxy-1-Methylethyl)-1,3-thiazol-2-yl][4-(methylthio)phenyl]ketone.

reactant | thiazole | 12.0 mmol, 1.0 g | S1C=NC=C1 | C3H3NS
reactant | n-butyllithium | 12.3 mmol, 2.3M, 5.3 ml | C(CCC)[Li]
reactant | 4-(Methylthio)benzaldehyde | 53.4 mmol, 7.1 ml | CSC1=CC=C(C=O)C=C1 | C8H8OS
reactant | n-butyllithium | 12.3 mmol, 2.3M, 5.3 ml | C(CCC)[Li]
reactant | THF | 100 ml | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 250 ml | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 235 mmol, 20.4 g | O=[Mn]=O
product | [5-(1-Hydroxy-1-Methylethyl)-1,3-thiazol-2-yl][4-(methylthio)phenyl]ketone | OC(C)(C)C1=CN=C(S1)C(=O)C1=CC=C(C=C1)SC | C14H15NO2S2
